data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3167,3574,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([N+:10]#[C:11][C:12]#[N:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:14]([CH3:15])=[O:16])[N:10]=[C:11]1[C:12]#[N:13],water,298.15,13.465865380029662,-42.53023727258332
1991,2212,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[O:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[O:17][CH3:18])[N:19]([CH3:20])[C:21]2([C:22]#[N:23])[C:24]([CH3:25])=[O:26],water,298.15,29.34911080917888,-19.885080765355266
1803,1995,[CH3:17][c:18]1[nH+:19][c-:20](-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[c:27](=[O:28])[o:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:20]1([c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[NH:19][C:18]2([CH3:17])[O:29][C:27]1=[O:28],water,298.15,18.881794928914264,-6.862918650911863
4559,5202,[CH3:6][O:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[N+:13]([CH3:14])[C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:13]([CH3:14])[C:10]1([C:8]([O:7][CH3:6])=[O:9])[C:11]#[N:12],water,298.15,71.05959056711916,54.06579297957825
4254,4868,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][NH+:13]=[C:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[NH:21][CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:12]([CH3:11])[NH:13][C:14]2([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,30.50021033877888,5.677527455090545
2070,2297,[CH2:18]=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([C:9]([CH3:10])=[O:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([C:9]([CH3:10])=[O:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[C:21]([C:22](=[O:23])[O:24][CH3:25])([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[N:19]([CH3:20])[CH2:18]1,water,298.15,22.74699332370591,-8.585179025455169
2720,3020,[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C:30](=[O+:31][N-:32][C:33]#[N:34])[C:35](=[O:36])[NH:37][CH3:38]>>[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:30]([C:28]([NH:27][CH3:26])=[O:29])([C:35](=[O:36])[NH:37][CH3:38])[O:31][N:32]2[C:33]#[N:34],water,298.15,10.63087808591147,-47.31455660802726
4361,4982,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[C:16]2([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,20.18653708617312,-10.293903141631665
3408,3876,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6]([CH3:7])=[N+:8]([CH3:9])[C-:10]([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:10]([C:11]#[N:12])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:8]([CH3:9])[C:6]1([CH3:5])[CH3:7],water,298.15,30.08145733081257,-22.0806731752358
3532,4030,[CH3:10][C:11]#[N+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])=[N:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,19.813320994142813,-29.02761713644124
1797,1989,[CH3:16][NH:17][C:18](=[O:19])[c-:20]1[c:21](=[O:22])[o:23][c:24]([C:25]([CH3:26])=[O:27])[n+:28]1[CH3:29].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:24]1([C:25]([CH3:26])=[O:27])[O:23][C:21](=[O:22])[C:20]3([C:18]([NH:17][CH3:16])=[O:19])[N:28]1[CH3:29],water,298.15,19.44403799944188,-15.410978861313918
